US08293925B2
LHMDS (1 M solution in THF, 2.4 mL, 2.4 mmol) was added slowly to a cooled (−50° C.) solution of 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (494 mg, 2 mmol) in THF (5 mL). Stirred at −50° C. for 5 min then warmed to 0° C. and stirred for 5 min. After cooling back to −50° C., iodocyclobutane (736 mg, 4 mmol) was added and the resulting reaction mixture was warmed to room temperature and stirred for 2 h. Saturated aqueous NH4Cl solution (10 mL) was added, extracted with EtOAc (3×25 mL). The combined organic layer was washed with water (50 mL), brine (50 mL), dried (Na2SO4) and evaporated to give crude product 3-cyclobutyl-1-(2,6-dimethyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester which was taken on directly to the next step. MS: (ES) m/z 302.3 (M+H+).

reactant | LHMDS | 2.4 mmol, 1 M, 2.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 2 mmol, 494 mg | COC(=O)C1CN(C(C1)=O)C1=C(C=CC=C1C)C | C14H17NO3
reactant | iodocyclobutane | 4 mmol, 736 mg | IC1CCC1 | C4H7I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-cyclobutyl-1-(2,6-dimethyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)C1CCC1 | C18H23NO3
